US09062055B2
Step 1. N-Methoxy-N-methyl-1H-pyrrolo[2,3-b]pyridine-2-carboxamide
A mixture of 1H-pyrrolo[2,3-b]pyridine-2-carboxylic acid (from MolBridge, 1.0 g, 6.2 mmol), O-(benzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate (3.0 g, 8.0 mmol) and triethylamine (4.3 mL, 31 mmol) in N,N-dimethylformamide (10 mL) was stirred at room temperature for 10 minutes. N,O-dimethylhydroxylamine hydrochloride (0.78 g, 8.0 mmol) was added and the resulting suspension was stirred at room temperature overnight. The mixture was quenched with water and extracted with EtOAc. The combined organic layers were dried over MgSO4, concentrated, and purified on silica gel (eluting with 0-65% EtOAc/hexane) to give the desired product (1.0 g, 79%). LCMS calculated for C10H12N3O2(M+H)+: m/z=206.1. Found: 206.1.

reactant | 1H-pyrrolo[2,3-b]pyridine-2-carboxylic acid | 6.2 mmol, 1.0 g | N1C(=CC=2C1=NC=CC2)C(=O)O | C8H6N2O2
reactant | O-(benzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate | 8.0 mmol, 3.0 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C
reactant | triethylamine | 31 mmol, 4.3 mL | C(C)N(CC)CC | C6H15N
reactant | N,O-dimethylhydroxylamine hydrochloride | 8.0 mmol, 0.78 g | Cl.CNOC
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | N-Methoxy-N-methyl-1H-pyrrolo[2,3-b]pyridine-2-carboxamide | 1.0 g, 79% | CON(C(=O)C1=CC=2C(=NC=CC2)N1)C | C10H11N3O2
